US08530468B2
5-(1H-imidazo[4,5-c]pyridin-6-ylamino)pyrazine-2-carbonitrile (BB-012)
5-(1-(4-Methoxybenzyl)-1H-imidazo[4,5-c]pyridin-6-ylamino)pyrazine-2-carbonitrile (10.6 mg, 30 μmol) was treated with TFA at 80° C. over 30 minutes. Isolation by SPE on a MP-TsOH cartridge, eluting with 2N ammonia in methanol, followed by concentration, gave the title compound as a white solid (7.02 mg, 100%). 1H NMR (d6-DMSO, 400 MHz) δ 12.79 (br s, 1H), 10.85 (br s, 1H), 8.76 (s, 2H), 8.75 (s, 1H), 8.35 (s, 1H), 8.26 (s, 1H). LCMS (2) Rt=1.36 min; m/z (ESI+) 238 (MH+), (ESI−) 236 (M−H).

reactant | 5-(1-(4-Methoxybenzyl)-1H-imidazo[4,5-c]pyridin-6-ylamino)pyrazine-2-carbonitrile | 30 μmol, 10.6 mg | COC1=CC=C(CN2C=NC=3C=NC(=CC32)NC=3N=CC(=NC3)C#N)C=C1 | C19H15N7O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(1H-imidazo[4,5-c]pyridin-6-ylamino)pyrazine-2-carbonitrile | 7.02 mg, 100% | N1C=NC=2C=NC(=CC21)NC=2N=CC(=NC2)C#N | C11H7N7
